US08071584B2
3-(1,1-dioxido-4-thiepanyl)-5-phenyl-1H-indole-7-carboxylic acid
The intermediate 1-(1,1-dimethylethyl) 7-methyl 5-bromo-3-(1,1-dioxido-4-thiepanyl)-1H-indole-1,7-dicarboxylate (88 mg, 0.18 mmol), PdCl2(dppf) (13 mg, 0.109 mmol), K2CO3 (75 mg, 0.54 mmol), and PhB(OH)2 (33 mg, 0.27 mmol) were mixed together and the taken up in dioxane/H2O (3/1, 2 mL). The reaction was heated in a microwave oven at 120° C. for 10 minutes. The mixture was diluted with AcOEt, washed with 1N HCl, H2O and brine, dried over MgSO4, and concentrated. The residue was dissolved in MeOH (5 mL). 6N NaOH (1 mL) was added and the mixture was stirred at room temperature overnight. The reaction was diluted with AcOEt, washed with 1N HCl, H2O, dried over MgSO4, and then concentrated, giving the title compound.

reactant | 1-(1,1-dimethylethyl) 7-methyl 5-bromo-3-(1,1-dioxido-4-thiepanyl)-1H-indole-1,7-dicarboxylate | 0.18 mmol, 88 mg | BrC=1C=C2C(=CN(C2=C(C1)C(=O)OC)C(=O)OC(C)(C)C)C1CCS(CCC1)(=O)=O | C21H26BrNO6S
reactant | K2CO3 | 0.54 mmol, 75 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | PhB(OH)2 | 0.27 mmol, 33 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
solvent | dioxane H2O | 2 mL | O1CCOCC1.O
solvent | AcOEt | CCOC(=O)C | C4H8O2
catalyst | PdCl2(dppf) | 0.109 mmol, 13 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 3-(1,1-dioxido-4-thiepanyl)-5-phenyl-1H-indole-7-carboxylic acid | O=S1(CCC(CCC1)C1=CNC2=C(C=C(C=C12)C1=CC=CC=C1)C(=O)O)=O | C21H21NO4S
